US06486190B1
Commercially available 1-(4-methylphenyl)-1-cyclopropane carboxylic acid is treated with nitronium tetrafluoroborate in sulfolane to afford 1-(4-methyl-3-nitrophenyl)-1-cyclopropane carboxylic acid. This is converted to 1-(4-methyl-3-nitrophenyl)-1-bromocyclopropane by treatment with mercuric oxide and bromine in methylene chloride. Reduction with zinc dust in the presence of calcium chloride in aqueous ethanol affords 5-cyciopropyl-2-methylaniline. Conversion to 4-cyclopropyl-5-(2-imidazolinylamino)-7-methylbenzimidazole is completed in the same manner as 4-ethyl-5-(2-imidazolinylamino)-7-methylbenzimidazole (see Example 2).

reactant | 1-(4-methylphenyl)-1-cyclopropane carboxylic acid | CC1=CC=C(C=C1)C1(CC1)C(=O)O | C11H12O2
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
solvent | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-(4-methyl-3-nitrophenyl)-1-cyclopropane carboxylic acid | CC1=C(C=C(C=C1)C1(CC1)C(=O)O)[N+](=O)[O-] | C11H11NO4
